US07858621B2
To a cooled (−78° C.) solution of methyl 6-methoxy-4-trifluoromethylnicotinate (300 mg, 1.35 mmol) in toluene (10 mL) was added diisobutylaluminum hydride (DIBAL, 1 M/toluene, 1.35 mL). The mixture was warmed slowly to room temperature and stirred for 2 days. Additional DIBAL (1 M/toluene, 2 mL) was added to complete the reaction. After stirring for 4 hours, the mixture was quenched with saturated aqueous ammonium chloride solution (1 mL), dried over anhydrous magnesium sulfate, filtered through a pad of celite, and concentrated under reduced pressure to give 6-methoxy-4-trifluoromethyl-3-pyridinemethanol (220 mg, 78.6%). The crude product was used directly in the following Swern oxidation.

reactant | methyl 6-methoxy-4-trifluoromethylnicotinate | 1.35 mmol, 300 mg | COC1=NC=C(C(=O)OC)C(=C1)C(F)(F)F | C9H8F3NO3
reactant | diisobutylaluminum hydride | 1 M, 1.35 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | DIBAL | 1 M, 2 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-methoxy-4-trifluoromethyl-3-pyridinemethanol | 220 mg, 78.6% | COC1=CC(=C(C=N1)CO)C(F)(F)F | C8H8F3NO2
